* 24V to 36V SEPIC, 350W (boost-ish)
* D=36/(36+24)=0.6, t_on=6u, Rload=36^2/350=3.70
Vin in 0 24
L1 in sw1 47u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 47u
D1 sw2 out DIODE
C2 out 0 220u
Rload out 0 3.70
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 6u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.probe V(*) I(*)
.end
